US06826033B2
A suspension of (2S)-2-amino-3-(4-nitrophenyl)-1-propanol (5.89 g) and benzaldehyde (3.39 g) in dichloromethane (59 ml) was stirred at room temperature for 2.5 hours. The mixture was evaporated, and the residual solid was suspended in ethanol (47 ml)-dichloromethane (11.8 ml). Sodium borohydride (1.25 g) was slowly added to the suspension, and the mixture was stirred at room temperature for 5 hours. The mixture was poured onto water (47 ml) and stirred at room temperature for 15 minutes. The precipitate formed was collected by filtration, washed with water, and dried in vacuo. The crude product was recrystallized from ethanol to give (2S)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol (5.18 g) as a pale yellow powder. The filtrates obtained above were combined, concentrated, and partitioned between chloroform and water. The organic layer was separated, washed successively with water and brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, chloroform/methanol) to give the additional amount of product (2.78 g) as a white powder.

reactant | (2S)-2-amino-3-(4-nitrophenyl)-1-propanol | 5.89 g | N[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O3
reactant | benzaldehyde | 3.39 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | dichloromethane | 59 ml | ClCCl | CH2Cl2
product | (2S)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol | 5.18 g | C(C1=CC=CC=C1)N[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N2O3
